US05981776
Process for the preparation of 3-methyl-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphtyl)-2H-1-benzofuran-5-carboxylic acid
A mixture of methyl 3-methyl-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-2H-1-benzofuran-5-carboxylate (510 mg, 1.35 mmol), sodium hydroxide (0.33 g, 7.9 mmol), lithium hydroxide (0.33 g, 7.9 mmol) and water in THF is stirred at room temperature for 5 days. The mixture is concentrated on a rotary evaporator under vacuum at 40° C. 10 ml of water and 10 ml of ethyl acetate are added. The mixture is acidified with concentrated hydrochloric acid solution to pH 1. After separation of the phases by settling, the organic phase is washed twice with 10 ml of water, dried over magnesium sulphate and concentrated on a rotary evaporator under vacuum at 40° C. The solid obtained is washed with heptane.

reactant | methyl 3-methyl-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-2H-1-benzofuran-5-carboxylate | 1.35 mmol, 510 mg | CC1(COC2=C1C=C(C=C2)C(=O)OC)C2=CC=1C(CCC(C1C=C2)(C)C)(C)C | C25H30O3
reactant | sodium hydroxide | 7.9 mmol, 0.33 g | [OH-].[Na+]
reactant | lithium hydroxide | 7.9 mmol, 0.33 g | [OH-].[Li+]
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 3-methyl-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphtyl)-2H-1-benzofuran-5-carboxylic acid | CC1(COC2=C1C=C(C=C2)C(=O)O)C2=CC=1C(CCC(C1C=C2)(C)C)(C)C | C24H28O3
